US05461036
In the second method, trans , trans-2 ,4-tetradecadienoic acid (99.6 g) was dissolved in thionyl chloride (87 ml ), and the mixture was stirred at room temperature. The excessive thionyl chloride was removed by distillation to give trans,trans-2,4-tetradecadienoic acid chloride (102.0 g). To glycine (66.8 g) dissolved in an aqueous 2N sodium hydroxide solution (540 ml) were added at the same time trans,trans-2,4-tetradecadienoic acid chloride (102.0 g) and 2N sodium hydroxide (270 ml) with 1/10 portions at a 3 minute interval. After the addition was completed, the mixture was warmed to room temperature, stirred for 15 minutes and acidified with concentrated hydrochloric acid (140 ml) under ice-cooling. Precipitates thus produced were collected by filtration and desiccated to give trans,trans-2,4-tetradecadienoyl glycine (75.0 g). To the solution of trans,trans-2,4-tetradecadienoyl glycine (4.7 g) and 6-(6-(spicaminyl-amino)purine; (5.1 g) in N,N-dimethylformamide (DMF, 60 ml) was added N-hydroxysuccinimide (2.1 g), and the mixture was ice-cooled. 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (3.4 g) dissolved in DMF (100 ml) was added dropwise to the mixture. After the addition was completed, the mixture was heated to room temperature and stirred for 12 hours. Water (500 ml) was added to the reaction mixture, and precipitates produced were collected by filtration and desiccated. Sodium methoxide (3.1 g) was added to a suspension of the precipitates in methanol (100 ml), and the mixture was stirred at room temperature, then ice-cooled and acidified by adding dropwise thereto a 10% methanolic hydrochloric acid solution. Precipitates produced were filtered, dried and subjected to chromatography on a silica gel column with eluent systems of chloroform-methanol (from 7:1 to 5:1) to give SPK241 in the yield of 5.00 g.

reactant | glycine | 66.8 g | NCC(=O)O | C2H5NO2
reactant | trans,trans-2,4-tetradecadienoic acid chloride | 102.0 g | C(\C=C\C=C\CCCCCCCCC)(=O)Cl | C14H23ClO
reactant | hydrochloric acid | 140 ml | Cl | ClH
solvent | sodium hydroxide | 2N, 540 ml | [OH-].[Na+]
solvent | sodium hydroxide | 2N, 270 ml | [OH-].[Na+]
product | trans,trans-2,4-tetradecadienoyl glycine | 75.0 g | C(\C=C\C=C\CCCCCCCCC)(=O)NCC(=O)O | C16H27NO3
